US09108984B2
Step E: Methyl 4-chloro-3′-fluoro-6-nitro-5-[(trimethylsilyl)ethynyl]biphenyl-2-carboxylate
A solution of methyl 5-chloro-3-nitro-2-{[(trifluoromethyl)sulfonyl]oxy}-4-[(trimethylsilyl)ethynyl]benzoate (9.3 g, 20 mmol) and (3-fluorophenyl)boronic acid (4.3 g, 30 mmol) in toluene (200 mL) was treated with water (200 mL) saturated with sodium bicarbonate (3.4 g, 40 mmol). The reaction mixture was degassed with nitrogen for 10 minutes, treated with tetrakis(triphenylphosphine)palladium(0) (1.2 g, 1.0 mmol), degassed with nitrogen for 10 minutes, and heated at 80° C. for 6 hours. The reaction mixture was cooled to 20° C. and the organic layer was separated. The aqueous layer was extracted with ethyl acetate. The combined organic layers were dried with sodium sulfate, filtered, and concentrated to a crude residue. The crude material was diluted with dichloromethane and adsorbed onto 36 g of silica gel. Purification by flash column chromatography using ethyl acetate in hexanes (0%-40%) gave the desired product (7.1 g, 86%). LCMS for C19H18ClFNO4Si (M+H)+: m/z=406.1; Found: 405.7.

reactant | methyl 5-chloro-3-nitro-2-{[(trifluoromethyl)sulfonyl]oxy}-4-[(trimethylsilyl)ethynyl]benzoate | 20 mmol, 9.3 g | ClC=1C(=C(C(=C(C(=O)OC)C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C#C[Si](C)(C)C | C14H13ClF3NO7SSi
reactant | (3-fluorophenyl)boronic acid | 30 mmol, 4.3 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | water | 200 mL | O | H2O
reactant | sodium bicarbonate | 40 mmol, 3.4 g | C([O-])(O)=O.[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.0 mmol, 1.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 4-chloro-3′-fluoro-6-nitro-5-[(trimethylsilyl)ethynyl]biphenyl-2-carboxylate | 7.1 g, 86% | ClC=1C=C(C(=C(C1C#C[Si](C)(C)C)[N+](=O)[O-])C1=CC(=CC=C1)F)C(=O)OC | C19H17ClFNO4Si
